US07482340B2
6-(5-Nitropyridin-2-yloxy)-2-[3-(5-nitropyridin-2-yloxy)phenyl]chroman-4-ol was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1 (b) but starting from 2-(3-hydroxyphenyl)chroman-4,6-diol and using 210 mol-% of 2-chloro-5-nitropyridine. 1H NMR (400 MHz, d6-DMSO) δ: 9.06 (d, 1H, J 2.8 Hz), 9.03 (d, 1H, J 2.8 Hz), 8.64 (dd, 1H, J 2.8, 9.1 Hz), 8.61 (dd, 1H, J 2.8, 9.1 Hz), 7.54 (t, 1H, J 7.9 Hz), 7.43 (d, 1H, J 7.9 Hz), 7.36 (s, 1H), 7.30 (d, 1H, J 9.1 Hz), 7.25-7.21 (m, 3H) 7.01 (dd, 1H, J 2.9, 8.7 Hz), 6.89 (d, 1H, J 8.7 Hz), 5.67 (d, 1H, J 6.4 Hz), 5.36 (d, 1H, J 10.8 Hz), 5.01-4.95 (m, 1H), 2.41-2.36 (m, 1H), 2.02-1.92 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-hydroxyphenyl)chroman-4,6-diol | OC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O4
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 6-(5-Nitropyridin-2-yloxy)-2-[3-(5-nitropyridin-2-yloxy)phenyl]chroman-4-ol | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2C(CC(OC2=CC1)C1=CC(=CC=C1)OC1=NC=C(C=C1)[N+](=O)[O-])O | C25H18N4O8
